US06235731B1
4) Synthesis of 1-[4-(aminomethyl)benzyl]-4-phenylpiperidine dihydrochloride
To 5.77 g (15.16 mM) of 1-[4-[N-(tert-butoxycarbonyl)aminomethyl]benzyl]-4-phenylpiperidine was added 10 ml (120 mM) of 12N-hydrochloric acid at room temperature and the mixture was stirred at the prevailing temperature for 2 hours. To this reaction mixture was added ethanol and the mixture was concentrated under reduced pressure. To the residue were added ethanol and diethyl ether and the resulting crystals were harvested by filtration. This crystal crop was rinsed with ethanol and diethyl ether to provide the title compound as white crystals.

reactant | 1-[4-[N-(tert-butoxycarbonyl)aminomethyl]benzyl]-4-phenylpiperidine | 15.16 mM, 5.77 g | C(C)(C)(C)OC(=O)NCC1=CC=C(CN2CCC(CC2)C2=CC=CC=C2)C=C1 | C24H32N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(aminomethyl)benzyl]-4-phenylpiperidine dihydrochloride | Cl.Cl.NCC1=CC=C(CN2CCC(CC2)C2=CC=CC=C2)C=C1 | InChI=1S/C19H24N2.2ClH/c20-14-16-6-8-17(9-7-16)15-21-12-10-19(11-13-21)18-4-2-1-3-5-18;;/h1-9,19H,10-15,20H2;2*1H
